US05004739
3-Bromo-7-(acetoxymethyl)-phenanthrene (11)
A mixture of 3-bromo-7-(bromomethyl)-phenanthrene (2.249 g, 6.425 mmol) and potassium acetate (1.26 g, 12.8 mmol) in 60 ml of DMF was heated at 80° C. for 7 hours. After cooling to RT, the reaction mixture was diluted with ethyl ether, washed with water and brine, dried (MgSO4) and evaporated to give 2.042 g (97%) of the title compound as a white solid which was used in the following reaction without purification.

reactant | 3-bromo-7-(bromomethyl)-phenanthrene | 6.425 mmol, 2.249 g | BrC=1C=CC=2C=CC3=CC(=CC=C3C2C1)CBr | C15H10Br2
reactant | potassium acetate | 12.8 mmol, 1.26 g | C(C)(=O)[O-].[K+]
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
product | 3-Bromo-7-(acetoxymethyl)-phenanthrene | 2.042 g, 97% | BrC=1C=CC=2C=CC3=CC(=CC=C3C2C1)COC(C)=O | C17H13BrO2
